US07820680B2
Step 4: 9-Hydroxy-7-isopropyl-2-(2-propenyl)-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione
To a stirred solution of 1-(2-propenyl)-4-(N-2-propylcarbamoyl)-2-piperazinone (8.0 g, 35 mmol) in DMF (80 mL) at 0° C. was added lithium bis(trimethylsily)amide (40 mL of a 1.0 M solution in THF, 40 mmol). Diethyl oxalate (5.84 g, 40 mmol) was added and the mixture was stirred for 1 h at 0° C. More lithium bis(trimethylsily)amide was added (35 mL of a 1.0 M solution in THF, 35 mmol) and the mixture was stirred for 1 h at 0° C., and then at ambient temperature for 18 h. The reaction was quenched by the addition of 0.5 N aqueous HCl to pH 3 and the solvents were removed in vacuo. The residue was vigorously stirred in methanol-water, and the precipitate was collected by filtration and dried in vacuo to give the title compound. HPLC RT=2.72 min (Method A); ES MS (M+H)=280; 1H NMR (400 MHz, DMSO-d6) δ 11.79 (s, 1H), 5.80 (ddt, 1H), 5.29 (d, J=17 Hz, 1H), 5.22 (d, J=10 Hz, 1H), 5.05 (septet, J=7 Hz, 1H), 4.10 (d, J=7 Hz, 2H), 3.94 (t, J=7 Hz), 3.58 (t, J=7 Hz, 2H), 1.38 (d, J=7 Hz, 6H).

reactant | 1-(2-propenyl)-4-(N-2-propylcarbamoyl)-2-piperazinone | 35 mmol, 8.0 g | C(C=C)N1C(CN(CC1)C(NC(C)C)=O)=O | C11H19N3O2
reactant | lithium bis(trimethylsily)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Diethyl oxalate | 40 mmol, 5.84 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 9-Hydroxy-7-isopropyl-2-(2-propenyl)-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione | OC1=C2N(C(N(C1=O)C(C)C)=O)CCN(C2=O)CC=C | C13H17N3O4
